US06610734B2
To a slurry of LAH (2.06 g, 54.29 mmol) in THF (60 mL) was added 3-ethylglutamic acid (3.5 g, 21.71 mmol) dropwise at 0° C. over 20 min. The reaction was heated to 36° C. for 18 h. The reaction slurry (gray) was cooled to 0° C. and quenched with H2O (3 mL) then washed with 1N NaOH (9 mL) and H2O (3 mL). It was then stirred for 6 h at 25° C. to obtain an off-white slurry. The slurry was filtered and the mother liquor was further dried over MgSO4, filtered and concentrated in vacuo to obtain 3-ethyl-2-methylpentane-1,5-diol as a crude yellow oil (2.85 g, 89.17%). Mass Spectrum (+EST): 170 (M+Na)+.

reactant | LAH | 54.29 mmol, 2.06 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-ethylglutamic acid | 21.71 mmol, 3.5 g | C(C)C([C@H](N)C(=O)O)CC(=O)O | C7H13NO4
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 3-ethyl-2-methylpentane-1,5-diol | C(C)C(C(CO)C)CCO | C8H18O2
